US04382143
Preparation of ethyl 5-amino-2-thiophenecarboxylate
A mixture of 60.4 g. of ethyl-5-nitro-2-thiophenecarboxylate and 480 ml. of concentrated hydrochloric acid is cooled in an ice-bath to below -5°. To this mixture is added 72 g. of granular tin in small amounts, keeping the temperature near -5°. After stirring for 6 hours, 575 ml. of 10 N sodium hydroxide is added to neutralize the mixture. Methylene chloride and Celite are added and the mixture is filtered. The methylene chloride layer of the filtrate is separated, dried over sodium sulfate, and filtered through Magnesol. Evaporation affords an oil which is distilled to yield the product.

reactant | ethyl-5-nitro-2-thiophenecarboxylate | C(C)OC(=O)C=1SC(=CC1)[N+](=O)[O-] | C7H7NO4S
reactant | hydrochloric acid | Cl | ClH
reactant | tin | [Sn] | Sn
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl 5-amino-2-thiophenecarboxylate | NC1=CC=C(S1)C(=O)OCC | C7H9NO2S
